US08242313B2
Methyl 3-(chloromethyl)-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylate
1-(3-chloropyridin-2-yl)-3-(hydroxymethyl)-1H-pyrazole-5-carboxylic acid hydrochloride (0.1 mol) was initially charged in 100 ml of toluene. 24 g of SOCl2 were added in portions at 60° C. The mixture was heated at 70° C. for 3 h, in the course of which the precipitate went completely into the solution. Methanol (30 ml) was slowly added dropwise to the mixture and the solution was stirred at 30° C. for a further 1 h. Subsequently, the solution was concentrated under reduced pressure. This gave 95% of the product with a purity of 96%.

reactant | 1-(3-chloropyridin-2-yl)-3-(hydroxymethyl)-1H-pyrazole-5-carboxylic acid hydrochloride | 0.1 mol | Cl.ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)O)CO
reactant | SOCl2 | 24 g | O=S(Cl)Cl | Cl2OS
reactant | Methanol | 30 ml | CO | CH4O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 3-(chloromethyl)-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylate | ClCC1=NN(C(=C1)C(=O)OC)C1=NC=CC=C1Cl | C11H9Cl2N3O2
